US07514452B2
Preparation of 4-acetoxy-3-trifluoromethylbenzoic acid
A reaction and treatment was carried out in the same manner as in Reference Example 62 except that the methyl 3-cyano-4-methoxybenzoate used in Reference Example 62 was replaced with methyl 4-methoxy-3-trifluoromethyl benzoate, thereby giving 4-hydroxy-3-trifluoromethylbenzoic acid. Using this compound, a reaction and treatment was carried out in the same manner as in Reference Example 80, thereby giving the desired compound.

reactant | methyl 3-cyano-4-methoxybenzoate | C(#N)C=1C=C(C(=O)OC)C=CC1OC | C10H9NO3
reactant | 4-hydroxy-3-trifluoromethylbenzoic acid | OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H5F3O3
product | 4-acetoxy-3-trifluoromethylbenzoic acid | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C10H7F3O4
